US07576094B2
To a solution of 6-hydroxy-5,7-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one,( 345 mg) in methanol (5 mL) was added sodium borohydride (65 mg). The mixture was stirred at room temperature for 30 min. The mixture was concentrated and the methanol removed to give 5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-4,6-diol.

reactant | 6-hydroxy-5,7-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one | 345 mg | OC=1C(=C2C(CC3(CCC3)OC2=CC1C)=O)C | C14H16O3
reactant | sodium borohydride | 65 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-4,6-diol | CC1=C2C(CC3(CCC3)OC2=CC(=C1O)C)O | C14H18O3
